US07576077B2
2-Carboxymethyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester
1N Sodium hydroxide (11.4 mL, 11.4 mmol) was added to 2-ethoxycarbonylmethyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester (2.5 g, 8.73 mmol) in methanol (20 mL) at room temperature and then stirred for 2.5 hours. The reaction mixture was concentrated, acidified with 2N HCl to pH˜2 and extracted with dichloromethane (3 times). The organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated to afford the titled compound (1.87 g, 83%, white foam solid). 1H NMR (CDCl3) δ (ppm): 7.68 (bs, 1H), 4.78 (m, 1H), 4.19 (m, 1H), 3.45 (m, 1H), 3.34 (m, 2H), 2.97 (m, 2H), 1.49 (s, 9H).

reactant | Sodium hydroxide | 11.4 mmol, 1N, 11.4 mL | [OH-].[Na+]
reactant | 2-ethoxycarbonylmethyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 8.73 mmol, 2.5 g | C(C)(C)(C)OC(=O)N1C(C(NCC1)=O)CC(=O)OCC | C13H22N2O5
solvent | methanol | 20 mL | CO | CH4O
product | 2-Carboxymethyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 1.87 g, 83% | C(C)(C)(C)OC(=O)N1C(C(NCC1)=O)CC(=O)O | C11H18N2O5
